US04025505
The mixture of 2.5 g of N-(4- nitro-o-tolyl)-4-methylsulfonylphthalimide, 0.1 g of palladium on carbon, 80 ml of dimethylformamide and 200 ml of ethyl acetate is hydrogenated at 2.7 atm. and room temperature until the hydrogen uptake ceases. It is filtered, the filtrate extracted with hydrochloric acid, washed with ethyl acetate, basified with sodium carbonate, reextracted with ethyl acetate, the organic solution washed with water, dried filtered and evaporated. The residue is triturated with ethyl acetate-diethyl ether, to yield the N-(4-amino-o-tolyl)-4-methylsulfonylphthalimide melting at 214°-220°.

reactant | N-(4- nitro-o-tolyl)-4-methylsulfonylphthalimide | 2.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)S(=O)(=O)C)=O | C16H12N2O6S
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-4-methylsulfonylphthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)S(=O)(=O)C)=O | C16H14N2O4S
